US07816357B2
Preparation of 5-(4-(trifluoromethyl)benzyl)-7,8-bis(4-chlorophenyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione
The solution of 7,8-bis(4-chlorophenyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione, (112 mg, 0.22 mmol), prepared as described in example 6B, 4-(trifluoromethyl)benzyl bromide (58 mg, 0.24 mmol), K2CO3 (91 mg, 0.66 mmol) in DMF (2 ml), was heated at 80° C. for 0.75 hour. After this time, the solution was cooled to RT and diluted with ethyl acetate. The resulting solution was washed with water. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure to give the title compound, 5-(4-(trifluoromethyl)benzyl)-7,8-bis(4-chlorophenyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione, (160 mg).

reactant | 7,8-bis(4-chlorophenyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione | 0.22 mmol, 112 mg | ClC1=CC=C(C=C1)C1=C(C=2N(NC1=O)C(N(N2)COCC[Si](C)(C)C)=O)C2=CC=C(C=C2)Cl | C23H24Cl2N4O3Si
reactant | 4-(trifluoromethyl)benzyl bromide | 0.24 mmol, 58 mg | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | K2CO3 | 0.66 mmol, 91 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(4-(trifluoromethyl)benzyl)-7,8-bis(4-chlorophenyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazine-3,6(2H,5H)-dione | 160 mg | FC(C1=CC=C(CN2N3C(C(=C(C2=O)C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl)=NN(C3=O)COCC[Si](C)(C)C)C=C1)(F)F | C31H29Cl2F3N4O3Si
